US04556716
This example proceeded as in Example 1, but with use of 500 g of CH2Cl2 and 0.3 mole of triethylamine. The yield of 13.9 g of product mixture (content of nicotinic derivatives was 98.5 percent; the ratio of ClNS/HNS was 64/36) corresponded to a yield of 58.1 percent of 6-chloronicotinic acid and 32.7 percent of 6-hydroxynicotinic acid, related to the amount of isocinchomeronic acid-N-oxide used.

reactant | triethylamine | 0.3 mole | C(C)N(CC)CC | C6H15N
reactant | 6-hydroxynicotinic acid | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
reactant | CH2Cl2 | 500 g | C(Cl)Cl | CH2Cl2
product | 6-chloronicotinic acid | yield of 58.1 percent | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
